* G:\My Drive\Graduate Reserach\LTSpice\Flyback\EVAL-CN0342-EB1Z_AURA.asc
R9 N001 N010 20
M1 N006 0 0 0 NMOS
L4 N001 N002 0.5m
M3 N001 N006 N006 N006 NMOS
R3 N002 N006 0.1
V1 N010 0 20
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\jb\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1
.backanno
.end
